US09428510B2
0.27 ml (1.95 mmol) of triethylamine is added to 0.21 g (0.19 mmol) of a solution of N-(5-(3,5-difluorophenylthio)-1-(4-(4-methylpiperazine-1-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzoyl)-1H-pyrazolo[3,4-b]pyrazine-3-yl)-4-(4-methylpiperazine-1-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzamide in 5 ml of methanol. The reaction medium is heated at 65° C. for 4 hours, and then overnight at room temperature. After evaporation of the solvent, the product is extracted several times with ethyl acetate. The organic phases are combined, washed with saturated sodium bicarbonate solution, dried on magnesium sulfate and concentrated. The residue is purified by silica gel chromatography (95:4:1 dichloromethane/methanol/ammonium as eluent) to yield 0.065 g (57%) of N-(5-(3,5-difluorophenylthio)-1-H-pyrazolo[3,4-b]pyrazine-3-yl)-4-(4-methylpiperazine-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzamide in the form of a yellow solid.

reactant | triethylamine | 1.95 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | N-(5-(3,5-difluorophenylthio)-1-(4-(4-methylpiperazine-1-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzoyl)-1H-pyrazolo[3,4-b]pyrazine-3-yl)-4-(4-methylpiperazine-1-yl)-2-(2,2,2-trifluoro-N-(tetrahydro-2H-pyran-4-yl)acetamido)benzamide | FC=1C=C(C=C(C1)F)SC=1N=C2C(=NC1)N(N=C2NC(C2=C(C=C(C=C2)N2CCN(CC2)C)N(C(C(F)(F)F)=O)C2CCOCC2)=O)C(C2=C(C=C(C=C2)N2CCN(CC2)C)N(C(C(F)(F)F)=O)C2CCOCC2)=O | C49H51F8N11O6S
solvent | methanol | 5 ml | CO | CH4O
product | N-(5-(3,5-difluorophenylthio)-1-H-pyrazolo[3,4-b]pyrazine-3-yl)-4-(4-methylpiperazine-1-yl)-2-(tetrahydro-2H-pyran-4-ylamino)benzamide | 0.065 g, 57% | FC=1C=C(C=C(C1)F)SC=1N=C2C(=NC1)NN=C2NC(C2=C(C=C(C=C2)N2CCN(CC2)C)NC2CCOCC2)=O | C28H30F2N8O2S
